US09102684B2
2-Amino-4-bromo-3-methyl-benzoic acid
H2O2 (37%, 9.5 mL, 0.075 mol) in H2O (83 mL) is slowly added to a solution of 6-Bromo-7-methyl-1H-indole-2,3-dione (8.4 g, 0.035 mol) and NaOH (9.6 g, 0.24 mol) in H2O (185 mL) then stirred at room temperature for 1 h, After reaction, the mixture is filtered and the solid is dried under vacuum to give product.

reactant | H2O2 | 0.075 mol, 9.5 mL | OO | H2O2
reactant | 6-Bromo-7-methyl-1H-indole-2,3-dione | 0.035 mol, 8.4 g | BrC1=CC=C2C(C(NC2=C1C)=O)=O | C9H6BrNO2
reactant | NaOH | 0.24 mol, 9.6 g | [OH-].[Na+]
solvent | H2O | 83 mL | O | H2O
solvent | H2O | 185 mL | O | H2O
product | 2-Amino-4-bromo-3-methyl-benzoic acid | NC1=C(C(=O)O)C=CC(=C1C)Br | C8H8BrNO2
